US06790957B2
(a) Dibenzyl (2R,3S)-2-(2,4-difluorophenyl)-3-(5-fluoro-4-pyrimidinyl)-1-(1H-1,2,4-triazol-1-yl)-2-butyl phosphate
A solution of (2R,3S)-2-(2,4-difluorophenyl)-3-(5-fluoro-4-pyrimidinyl)-1-(1H-1,2,4-triazol-1-yl) butan-2-ol (the compound of Example 7, EP 0440372, also known as voriconazole, 17.0 g, 48.7 mmol), 4-dimethylaminopyridine (10.2 g, 83.5 mmol), 1H-tetrazole (10.2 g, 146 mmol) and dibenzyl diisopropylphosphoramidite (33.6 g, 97.4 mmol) in methylene chloride (100 ml) was stirred at reflux for 2 hours and a further 16 hours at room temperature under a nitrogen atmosphere. The reaction mixture was then washed with hydrochloric acid and then sodium bicarbonate, dried (MgSO4) and concentrated. The crude product phosphite was purified by column chromatography (silica gel, 300 g, eluting with 3:1 to 1:1 hexane:ethyl acetate gradient) to give a pale yellow oil. This was dissolved in methylene chloride (100 ml) and cooled to −10° C., whereupon a solution of 3-chloroperoxybenzoic acid (14.8 g, 57% w/w, 46.9 mmol) in methylene chloride (100 ml) was added maintaining the temperature below 0° C. The resulting mixture was allowed to warm to room temperature for 10 minutes before washing with aqueous sodium metabisulphite and sodium bicarbonate. After drying (MgSO4) and concentrating the crude product was purified by column chromatography (silica gel, 300 g, eluting with ethyl acetate) to give the subtitle compound as a viscous syrup (17.86 g, 60%).

reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-(5-fluoro-4-pyrimidinyl)-1-(1H-1,2,4-triazol-1-yl) butan-2-ol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)C1=NC=NC=C1F)O | C16H14F3N5O
reactant | voriconazole | C[C@@H](C1=C(C=NC=N1)F)[C@](CN2C=NC=N2)(C=3C=CC(=CC3F)F)O | C16H14F3N5O
reactant | 1H-tetrazole | 146 mmol, 10.2 g | N1N=NN=C1 | CH2N4
reactant | dibenzyl diisopropylphosphoramidite | 97.4 mmol, 33.6 g | C(C)(C)N(P(OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(C)C | C20H28NO2P
reactant | 3-chloroperoxybenzoic acid | 46.9 mmol, 14.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
catalyst | 4-dimethylaminopyridine | 83.5 mmol, 10.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Dibenzyl (2R,3S)-2-(2,4-difluorophenyl)-3-(5-fluoro-4-pyrimidinyl)-1-(1H-1,2,4-triazol-1-yl)-2-butyl phosphate | 17.86 g, 60% | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)O[C@](CN1N=CN=C1)([C@@H](C)C1=NC=NC=C1F)C1=C(C=C(C=C1)F)F | C30H27F3N5O4P
